US08124617B2
ethyl 6-amino-5-nitronicotinate
A solution of 6-amino-5-nitronicotinic acid (10 g) and concentrated sulfuric acid (20 ml) in ethanol (250 ml) was heated under reflux for 18 hr. The reaction mixture was concentrated, diluted with water and adjusted with sodium hydrogencarbonate to pH 8. The precipitated crystals were collected by filtration and washed with water to give the title compound (8.5 g, yield 73%) as yellow crystals. purity 84%. M+H: 212.

reactant | 6-amino-5-nitronicotinic acid | 10 g | NC1=NC=C(C(=O)O)C=C1[N+](=O)[O-] | C6H5N3O4
reactant | sulfuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 250 ml | C(C)O | C2H6O
product | ethyl 6-amino-5-nitronicotinate | 8.5 g, yield 73% | NC1=NC=C(C(=O)OCC)C=C1[N+](=O)[O-] | C8H9N3O4
